US09144238B2
To a solution of 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2,6-difluoro-3-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (1.82 g) and potassium carbonate (657 mg) in N,N-dimethylformamide (15 ml) are added, at room temperature, potassium iodide (289 mg) and 3-bromoprop-1-yne (755 mg)) (80 wt % in toluene). The reaction mixture is stirred at 80° C. for 4 h. Then the mixture is admixed with saturated aqueous solution of ammonium chloride and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated. Purification by column chromatography gives 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2,6-difluoro-3-(prop-2-yn-1-yloxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone, (1.68 g).

reactant | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2,6-difluoro-3-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | 1.82 g | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C(=CC=C1F)O)F)F | C24H21F6N5O3S
reactant | potassium carbonate | 657 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 289 mg | [I-].[K+]
reactant | 3-bromoprop-1-yne | 755 mg | BrCC#C | C3H3Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2,6-difluoro-3-(prop-2-yn-1-yloxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone | 1.68 g | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C(=CC=C1F)OCC#C)F)F | C27H23F6N5O3S
